US05516783
A mixture of 4-bromomethylphenylsulphonyl-2-thienylmethylamine (10.0 g, 28.9 mmol), dimethylsulphate (2.75 ml, 28.9 mmol) and potassium carbonate (19.96 g, 144 mmol) in acetone (100 ml) was stirred overnight at room temperature. The solvent was removed under reduced pressure and the residue taken up in ethyl acetate, washed with water and brine, dried, filtered and evaporated. Chromatography of the residue (1:2 ethyl acetate/hexane) gave N-methyl 4-bromomethylphenylsulphonyl-2-thienylmethylamine (1.60 g, 15%) as a colourless oil which was used directly in the next step.

reactant | 4-bromomethylphenylsulphonyl-2-thienylmethylamine | 28.9 mmol, 10.0 g | BrCC=1C=C(SC1)CNS(=O)(=O)C1=CC=CC=C1 | C12H12BrNO2S2
reactant | dimethylsulphate | 28.9 mmol, 2.75 ml | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 144 mmol, 19.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-methyl 4-bromomethylphenylsulphonyl-2-thienylmethylamine | 1.60 g, 15% | CN(CC=1SC=C(C1)CBr)S(=O)(=O)C1=CC=CC=C1 | C13H14BrNO2S2
